US08067420B2
A mixture of 2-methyl-4-nitrophenol (5.50 g, 35.9 mmol), 2,2-dimethyloxirane (7.77 g, 108 mmol), K2CO3 (4.96 g, 35.9 mmol) and NaH2PO4 (4.31 g, 35.9 mmol) in MeCN (50 mL) and H2O (8.82 mL) was stirred at 140° C. in a steel bomb for 6 hours. After cooling to RT, the reaction was diluted with aq. saturated NaHCO3 (80 ml) prior to extraction with EtOAc (100 ml). The EtOAc layer was dried over Na2SO4 and concentrated. The crude product was purified by silica gel chromatography employing a solvent gradient (hexane to 60% ethyl acetate) to elute 2-methyl-1-(2-methyl-4-nitrophenoxy)propan-2-ol (7.3 g, 32.4 mmol, 90% yield) as yellow oil. MS (M+1=226). 1H NMR (500 MHz, chloroform-d) δ ppm 8.00-8.15 (2H, m), 6.86 (1H, d, J=8.80 Hz), 3.90 (2H, s), 2.33 (3H, s), 1.40 (6H, s).

reactant | 2-methyl-4-nitrophenol | 35.9 mmol, 5.50 g | CC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO3
reactant | 2,2-dimethyloxirane | 108 mmol, 7.77 g | CC1(OC1)C | C4H8O
reactant | K2CO3 | 35.9 mmol, 4.96 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 50 mL | CC#N | C2H3N
solvent | H2O | 8.82 mL | O | H2O
solvent | NaHCO3 | 80 ml | C(=O)(O)[O-].[Na+]
product | 2-methyl-1-(2-methyl-4-nitrophenoxy)propan-2-ol | 32.4 mmol, 7.3 g, 90% yield | CC(COC1=C(C=C(C=C1)[N+](=O)[O-])C)(C)O | C11H15NO4
